US09034866B2
Synthesis of (±)-2-(1-Methyl-1H-imidazol-4-yl)but-3-yn-2-ol
Into a 15-mL Schlenk tube, was placed a suspension of potassium fluoride dihydrate (940 mg, 10.00 mmol, 2.50 equiv) and 2-(1-methyl-1H-imidazol-4-yl)-4-(trimethylsilyl)but-3-yn-2-ol (888 mg, 3.99 mmol, 1.00 equiv) in methanol (10 mL). The resulting solution was stirred for 2 h at 50° C. Then most of solvent was concentrated under vacuum and the resulting mixture was diluted with 30 mL of ethyl acetate. The resulting mixture was washed with 2×10 mL of water and 1×10 mL of brine. The mixture was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. This resulted in 255 mg (43%) of 2-(1-methyl-1H-imidazol-4-yl)but-3-yn-2-ol as a gray solid.

reactant | potassium fluoride dihydrate | 10.00 mmol, 940 mg, 2.50 equiv | O.O.[F-].[K+]
reactant | 2-(1-methyl-1H-imidazol-4-yl)-4-(trimethylsilyl)but-3-yn-2-ol | 3.99 mmol, 888 mg, 1.00 equiv | CN1C=NC(=C1)C(C)(C#C[Si](C)(C)C)O | C11H18N2OSi
solvent | methanol | 10 mL | CO | CH4O
product | (±)-2-(1-Methyl-1H-imidazol-4-yl)but-3-yn-2-ol | CN1C=NC(=C1)C(C)(C#C)O | C8H10N2O
